US07411072B2
5-Bromo-2-fluoro-phenylamine
Dissolve 4-bromo-1-fluoro-2-nitrobenzene (5.00 g, 22.73 mmol) and SnCl2 (dihydrate, 25.46 g, 113.6 mmol) in ethanol (100 mL) and heat to reflux overnight. Cool to room temperature and concentrate in-vacuo. Dissolve residue in ethyl acetate and basify with saturated aqueous NaHCO3. Filter through a pad of Celite and extract filtrate with ethyl acetate. Dry (MgSO4) and concentrate organics to a brown oil. Chromatograph on 90 g silica gel, eluting with 5% to 10% ethyl acetate/hexanes affords 2.85 g (66%) of the title compound as a tan oil. MS (ES) 191 (M+H); HPLC shows 99% purity.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 22.73 mmol, 5.00 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | SnCl2 | 113.6 mmol, 25.46 g | Cl[Sn]Cl
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Bromo-2-fluoro-phenylamine | 2.85 g, 66% | BrC=1C=CC(=C(C1)N)F | C6H5BrFN
